US06864396B2
A mixture of 144 grams of benzene-1,2,4,5-tetracarboxylic acid dianhydride (pyromellitic dianhydride), 439 grams of aluminum chloride, and 915 grams of 1,2-dichloroethane was cooled to 15° C. To this was added a mixture of 140 grams of p-xylene, 109 grams of N,N-diisopropylethylamine, and 426 mL of 1,2-dichloroethane over a period of 3.5 hours keeping the temperature between 15° C. and 20° C. The resulting mixture was stirred overnight at room temperature, poured into 2876 grams of ice and 1078 mL concentrated hydrochloric acid and stirred for one hour. The organic layer was washed with 7 L of water. Three liters of water was poured off and the mixture allowed to stand for 4 days, after which the remaining 3 L of water was poured off. To the resulting residue was added 7 L of ethyl acetate and 3 L of tetrahydrofuran. The organic phase was separated and concentrated in vacuo. To 92 grams of the resulting residue was added 1910 mL of ethyl acetate and the mixture was heated to 77° C. for one hour. The mixture was cooled to room temperature and the resulting solid was collected by filtration and dried to give 2,5-bis(2,5-dimethybenzoyl)terephthalic acid.

reactant | benzene-1,2,4,5-tetracarboxylic acid dianhydride | 144 grams | C1=C2C(=CC3=C1C(=O)OC3=O)C(=O)OC2=O | C10H2O6
reactant | aluminum chloride | 439 grams | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | N,N-diisopropylethylamine | 109 grams | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydrochloric acid | 1078 mL | Cl | ClH
reactant | p-xylene | 140 grams | CC=1C=CC(=CC1)C | C8H10
solvent | 1,2-dichloroethane | 426 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 915 grams | ClCCCl | C2H4Cl2
product | 2,5-bis(2,5-dimethybenzoyl)terephthalic acid | CC1=C(C(=O)C2=C(C(=O)O)C=C(C(=C2)C(=O)O)C(C2=C(C=CC(=C2)C)C)=O)C=C(C=C1)C | C26H22O6
